US08404836B2
2.6 g (65.1 mmol) of 60% sodium hydride is added in portions to a solution at 0° C. of 10 g (54.3 mmol) of (3-fluoro-4-hydroxy-phenyl)-methyl acetate diluted in 50 ml of tetrahydrofuran and 50 ml of dimethylformamide. The reaction mixture is stirred at room temperature for 45 minutes and then 6.8 ml (59.7 mmol) of 2-methoxyethoxymethyl chloride is added dropwise. The reaction mixture is stirred at room temperature for 2 hours and then the reaction mixture is treated by adding water and extracted with ethyl acetate. The organic phases are combined, washed with saturated aqueous sodium chloride solution, dried over magnesium sulfate, filtered, and evaporated. The raw product is purified by silica column chromatography, eluted with a heptane/ethyl acetate mixture 70/30. 9.7 g (65%) of [3-fluoro-4-(2-methoxy-ethoxymethoxy)-phenyl]-methyl acetate is obtained in the form of a colorless oil.

reactant | sodium hydride | 65.1 mmol, 2.6 g | [H-].[Na+]
reactant | (3-fluoro-4-hydroxy-phenyl)-methyl acetate | 54.3 mmol, 10 g | C(C)(=O)OCC1=CC(=C(C=C1)O)F | C9H9FO3
reactant | 2-methoxyethoxymethyl chloride | 59.7 mmol, 6.8 ml | COCCOCCl | C4H9ClO2
reactant | water | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | [3-fluoro-4-(2-methoxy-ethoxymethoxy)-phenyl]-methyl acetate | 9.7 g, 65% | C(C)(=O)OCC1=CC(=C(C=C1)OCOCCOC)F | C13H17FO5
